US08957102B2
(Step 6) pyrrolo[1,2-b]pyridazin-4(1H)-one
4-oxo-1,4-dihydropyrrolo[1,2-b]pyridazine-3-carboxylic acid was dissolved in dimethyl sulfoxide (110 mL) and heated at 150° C. for 1 hour. After removing the solvent by distillation under reduced pressure, the resulting residue was purified by silica gel chromatography (5% ethyl acetate in dichloromethane) to give the target compound (5.3 g, 39.5 mmol, 74% yield).

reactant | 4-oxo-1,4-dihydropyrrolo[1,2-b]pyridazine-3-carboxylic acid | O=C1C=2N(NC=C1C(=O)O)C=CC2 | C8H6N2O3
solvent | dimethyl sulfoxide | 110 mL | CS(=O)C | C2H6OS
product | pyrrolo[1,2-b]pyridazin-4(1H)-one | 39.5 mmol, 5.3 g, 74% yield | N1N2C(C(C=C1)=O)=CC=C2 | C7H6N2O
